US09328118B2
Triethylamine (0.27 mL) and p-toluenesulfonyl chloride (269 mg) were added to a mixture of tert-butyl 3-(2-hydroxyethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate (300 mg) and CH2Cl2 (6 mL) at room temperature, and the mixture was stirred at the same temperature overnight. After CHCl3 and water were added to the reaction mixture, extraction thereof was performed using CHCl3, and the extract was washed with water. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=95:5 to 70:30), whereby tert-butyl 3-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate (375 mg) was obtained as a light brown oil.

reactant | Triethylamine | 0.27 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 269 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | tert-butyl 3-(2-hydroxyethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 300 mg | OCCC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C14H25NO3
reactant | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | tert-butyl 3-(2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)-8-azabicyclo[3.2.1]octane-8-carboxylate | 375 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC1CC2CCC(C1)N2C(=O)OC(C)(C)C | C21H31NO5S
